US08211908B2
To a suspension of 0.10 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 2 mL of methanol, 0.14 g of a 28% sodium methoxide/methanol solution, 40 mg of 5-ethyl-4-methoxypyridine-2-carbaldehyde and 14 μL of acetic acid were added. Then, 30 mg of sodium cyanoborohydride was added thereto, and the mixture was stirred at room temperature for 5 hours. To the reaction mixture, chloroform and a saturated aqueous sodium hydrogen carbonate solution were added. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using gradient elution with chloroform:methanol=9:1 to 86:14 to obtain 51 mg of 1-(2-(4-(((5-ethyl-4-methoxypyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.10 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 5-ethyl-4-methoxypyridine-2-carbaldehyde | 40 mg | C(C)C=1C(=CC(=NC1)C=O)OC | C9H11NO2
reactant | sodium cyanoborohydride | 30 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 14 μL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-(((5-ethyl-4-methoxypyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 51 mg | C(C)C=1C(=CC(=NC1)CNC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)OC | C25H33N5O3
